US07960369B2
tert-butyl 3-(4-((2′-(hydroxymethyl)biphenyl-3-yl)methoxy)phenyl)propanoate
tert-Butyl 3-(4-(2′-formylbiphenyl-3-ylmethoxy)phenyl)propanoate (0.30 g, 0.72 mmol) was dissolved in a mixed solution of methanol (6 mL) and tetrahydrofuran (6 mL), and sodium borohydride (14 mg, 0.36 mmol) was added under ice-cooling, and the mixture was stirred at the same temperature for 2 hrs. The reaction mixture was concentrated, and the residue was diluted with ethyl acetate, washed with 1N hydrochloric acid and saturated brine, dried, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-1/1) to give the title compound (0.25 g, yield 83%) as a colorless oil.

reactant | tert-Butyl 3-(4-(2′-formylbiphenyl-3-ylmethoxy)phenyl)propanoate | 0.72 mmol, 0.30 g | C(=O)C1=C(C=CC=C1)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)OC(C)(C)C | C27H28O4
reactant | sodium borohydride | 0.36 mmol, 14 mg | [BH4-].[Na+]
solvent | methanol | 6 mL | CO | CH4O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | tert-butyl 3-(4-((2′-(hydroxymethyl)biphenyl-3-yl)methoxy)phenyl)propanoate | 0.25 g, yield 83% | OCC1=C(C=CC=C1)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)OC(C)(C)C | C27H30O4
